US06133319
b) Preparation of trans-2-benzyloxycyclohexylazide
To a solution of 2-azidocyclohexylalcohol (1 g, 7.1 mmol) in THF (10 mL), sodium hydride (284 mg, 7.1 mmol) was added. After 10 minutes, benzyl bromide (0.84 mL, 7.1 mmol) was added. The reaction mixture was partitioned between ethyl acetate and NaHCO3 (aq.). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure and chromatography of the resulting liquid on silica gel (hexane: ethyl acetate; 10:1) gave product (1.4 g, 85%). EI-MS m/z 232 (M+H)+.

reactant | 2-azidocyclohexylalcohol | 7.1 mmol, 1 g | N(=[N+]=[N-])C1C(CCCC1)O | C6H11N3O
reactant | sodium hydride | 7.1 mmol, 284 mg | [H-].[Na+]
reactant | benzyl bromide | 7.1 mmol, 0.84 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | trans-2-benzyloxycyclohexylazide | 1.4 g, 85% | C(C1=CC=CC=C1)O[C@H]1[C@@H](CCCC1)N=[N+]=[N-] | C13H17N3O
